US09289419B2
Thionyl chloride (5 mL) was added to a cold (0° C.) stirred solution of pyrrolidine-3-carboxylicacid (500 mg, 4.34 mmol) in EtOH (25 mL) and continued stirring at 80° C. for 12-16 h. The reaction mixture was concentrated under reduced pressure to afford 600 mg (crude) of ethyl pyrrolidine-3-carboxylate, which was used as such in the next step without purification.

reactant | Thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyrrolidine-3-carboxylicacid | 4.34 mmol, 500 mg | N1CC(CC1)C(=O)O | C5H9NO2
reactant | EtOH | 25 mL | CCO | C2H6O
product | ethyl pyrrolidine-3-carboxylate | 600 mg | N1CC(CC1)C(=O)OCC | C7H13NO2
